US05075330
To a solution of 2-[(2,3-dimethylphenyl)amino]benzaldehyde oxime (2.0 g, 8.4 mmol) and methyl orange (20 mg as an indicator), in methanol (40 ml) and water (10 ml) is added sodium cyanoborohydride (4.0 g, 64 mmol) in small portions over two hours, maintaining a red color of the indicator by the dropwise addition of concentrated HCl. The reaction of mixture is diluted with ethyl acetate (200 ml) and the aqueous layer is neutralized to pH=7 with 1N NaOH. The organic layer is collected, dried (MgSO ) and the solvent is evaporated to give crude 2-[(2,3-dimethylphenyl)amino]-N-hydroxy-benzenemethanamine as an oil which is used without further purification in the next step.

reactant | 2-[(2,3-dimethylphenyl)amino]benzaldehyde oxime | 8.4 mmol, 2.0 g | CC1=C(C=CC=C1C)NC1=C(C=NO)C=CC=C1 | C15H16N2O
reactant | methyl orange | CN(C)C=1C=CC(=CC1)N=NC=2C=CC(=CC2)S(=O)(=O)O | C14H15N3O3S
reactant | sodium cyanoborohydride | 64 mmol, 4.0 g | C(#N)[BH3-].[Na+]
reactant | HCl | Cl | ClH
reactant | NaOH | 1N | [OH-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
product | 2-[(2,3-dimethylphenyl)amino]-N-hydroxy-benzenemethanamine | CC1=C(C=CC=C1C)NC1=C(C=CC=C1)CNO | C15H18N2O
